US06809110B2
To a solution of 3-(4-benzyloxy-2-methyl-phenyl)-2-ethoxy-3-hydroxy-propionic acid ethyl ester (mixture of stereoisomers; 48.8 g, 136.2 mmol) in N,N-dimethylformarrd (500 ml) was added sulfuric acid (19.6 ml, 96%). The reaction mixture was heated to 100° C. for 2.5 h, cooled to ambient temperature, poured onto ice water/saturated aqueous NaHCO3 solution 1/1 and extracted two times with ethyl acetate. The combined extracts were washed with ice water/brine 1/1 and dried over sodium sulfate. The solvent was removed under reduced pressure to give 46.1 g (135.4 mmol) of crude (Z)-3-(4-benzyloxy-2-methyl-phenyl)-2-ethoxy-acrylic acid ethyl ester which was used in the next step without further purification.

reactant | 3-(4-benzyloxy-2-methyl-phenyl)-2-ethoxy-3-hydroxy-propionic acid ethyl ester | 136.2 mmol, 48.8 g | C(C)OC(C(C(O)C1=C(C=C(C=C1)OCC1=CC=CC=C1)C)OCC)=O | C21H26O5
reactant | sulfuric acid | 19.6 ml | S(O)(O)(=O)=O | H2O4S
product | (Z)-3-(4-benzyloxy-2-methyl-phenyl)-2-ethoxy-acrylic acid ethyl ester | 135.4 mmol, 46.1 g | C(C)OC(/C(=C/C1=C(C=C(C=C1)OCC1=CC=CC=C1)C)/OCC)=O | C21H24O4
